US20010018529A1
To a solution of ethyl 6-(2-(R)-((2-(R)-(3-chlorophenyl)-2-hydroxyethyl)amino)propyl)-2,3-dihydro-1,4-benzodioxin-2-(R)-carboxylate (650 mg) in ethanol (2 ml) were added water (20 ml) and concentrated hydrochloric acid (0.32 ml). This solution was stirred under reflux-heating for 5 hours while removing ethanol with Dean-Stark apparatus. After the solution was concentrated under reduced pressure, acetonitrile/water (1/1) (11 ml) was added to the residue, which was then dissolved under heating. The solution was neutralized with a 5% aqueous solution of sodium hydrogencarbonate. Acetonitrile (20 ml) was added, and the crystals precipitated were dissolved under heating. The resulting solution was filtered under heating and then cooled, and the resulting crystals were filtered to give 6-(2-(R)-((2-(R)-(3-chlorophenyl)-2-hydroxyethyl)amino)-propyl)-2,3-dihydro-1,4-benzodioxin-2-(R)-carboxylic acid (412 mg). The HPLC-2 analysis of the optical isomer showed 96.5% purity (R/S=96.5/3.5, the purity of the material optical isomer used=90.5%).

reactant | ethyl 6-(2-(R)-((2-(R)-(3-chlorophenyl)-2-hydroxyethyl)amino)propyl)-2,3-dihydro-1,4-benzodioxin-2-(R)-carboxylate | 650 mg | ClC=1C=C(C=CC1)[C@H](CN[C@@H](CC1=CC2=C(O[C@H](CO2)C(=O)OCC)C=C1)C)O | C22H26ClNO5
reactant | water | 20 ml | O | H2O
reactant | hydrochloric acid | 0.32 ml | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 6-(2-(R)-((2-(R)-(3-chlorophenyl)-2-hydroxyethyl)amino)-propyl)-2,3-dihydro-1,4-benzodioxin-2-(R)-carboxylic acid | 412 mg | ClC=1C=C(C=CC1)[C@H](CN[C@@H](CC1=CC2=C(O[C@H](CO2)C(=O)O)C=C1)C)O | C20H22ClNO5
